US04053298
Preparation of Tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-[N-methyl-N-(3,4-dichlorophenyl)carbamoyloxy]-2(1H)-pyrimidinone
Tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-hydroxy-2(1H)-pyrimidinone (0.05 mole), N-methyl-N-(3,4-dichlorophenyl)carbamoyl chloride (0.06 mole), pyridine (0.06 mole) and toluene (150 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction mixture is heated at reflux with stirring for a period of about 3 hours. After this time the reaction mixture is cooled to room temperature and is filtered to remove pyridine hydrochloride. The filtrate is then washed with water, dried over anhydrous magnesium sulfate and stripped of solvent leaving a residue. The residue is recrystallized to yield the desired product tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-[N-methyl-N-(3,4-dichlorophenyl)carbamoyloxy]-2(1H)-pyrimidinone.

reactant | Tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-hydroxy-2(1H)-pyrimidinone | 0.05 mole | C(C)(C)(C)C1=NN=C(S1)N1C(N(CCC1O)C)=O | C11H18N4O2S
reactant | N-methyl-N-(3,4-dichlorophenyl)carbamoyl chloride | 0.06 mole | CN(C(=O)Cl)C1=CC(=C(C=C1)Cl)Cl | C8H6Cl3NO
reactant | pyridine | 0.06 mole | N1=CC=CC=C1 | C5H5N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-[N-methyl-N-(3,4-dichlorophenyl)carbamoyloxy]-2(1H)-pyrimidinone | C(C)(C)(C)C1=NN=C(S1)N1C(N(CCC1OC(N(C1=CC(=C(C=C1)Cl)Cl)C)=O)C)=O | C19H23Cl2N5O3S
